US05750531
Synthesis of 6-ethyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.54 ml, 5.15 mmol) was added to a mixture solution of 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(0.7 g, 2.56 mmol) and dimethylformamide(5 ml), 0.56 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 5.15 mmol, 0.54 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 2.56 mmol, 0.7 g | C(C)C1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.56 g, Yield: 57% | Cl.C(C)C1=CC(=NC(=N1)N(C)C1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C22H24N4.ClH/c1-3-19-15-21(26-14-13-17-9-7-8-10-18(17)16-26)24-22(23-19)25(2)20-11-5-4-6-12-20;/h4-12,15H,3,13-14,16H2,1-2H3;1H
